US09212187B2
Synthesis of N-ethyl-4-{3-[(2-pyridin-3-ylethyl)pyridin-4-ylmethylamino]propoxy}benzamide trihydrochloride
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (WSC) (95 mg), and 1-hydroxy benzotriazole(HOBt) (66 mg) were added to a DMF solution(4 ml) of 4-{3-[(2-pyridin-3-ylethyl)pyridin-4-ylmethylamino]propoxy}benzoic acid(149 mg), ethyl amine hydrochloride(38 mg), and triethylamine (0.08 ml). The mixture was stirred at room temperature overnight. The reaction mixture was added to ice water. A 1N-sodium hydroxide aqueous solution was added thereto, followed by extraction using ethyl acetate. The organic layer was washed with water and then was dried with anhydrous sodium sulfate, followed by condensation under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate: methanol=10:1→4:1). The purified product was condensed under reduced pressure. A 4N-hydrogen chloride ethyl acetate solution(0.16 ml) was added to an ethyl acetate solution of the residue. The precipitated insoluble matter was separated, washed with ethyl acetate, and dried to give the title compound(80 mg) as a white powder.

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 95 mg | Cl.CN(CCCN=C=NCC)C
reactant | 4-{3-[(2-pyridin-3-ylethyl)pyridin-4-ylmethylamino]propoxy}benzoic acid | 149 mg | N1=CC(=CC=C1)CCN(CCCOC1=CC=C(C(=O)O)C=C1)CC1=CC=NC=C1 | C23H25N3O3
reactant | ethyl amine hydrochloride | 38 mg | Cl.C(C)N
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen chloride ethyl acetate | 0.16 ml | C(C)OC(C)=O.Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 0.08 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | N-ethyl-4-{3-[(2-pyridin-3-ylethyl)pyridin-4-ylmethylamino]propoxy}benzamide trihydrochloride | 80 mg | Cl.Cl.Cl.C(C)NC(C1=CC=C(C=C1)OCCCN(CC1=CC=NC=C1)CCC=1C=NC=CC1)=O | InChI=1S/C25H30N4O2.3ClH/c1-2-28-25(30)23-6-8-24(9-7-23)31-18-4-16-29(20-22-10-14-26-15-11-22)17-12-21-5-3-13-27-19-21;;;/h3,5-11,13-15,19H,2,4,12,16-18,20H2,1H3,(H,28,30);3*1H
